US05041679
15.1 Grams of methyl acetoacetate were dissolved in 20 ml of water, and 19.4 g of a 28% aqueous sodium hydroxide solution were added thereto by drops while cooling the mixture to 35° C. or less. After having been stirred at 30°-35° C. for 3 hours, the mixture was adjusted to pH 7.5 with a concentrated aqueous hydrochloric acid solution. Thereafter, 1.64 g of sodium acetate and 6.44 g of tetrabutylammonium bromide were added thereto and then 60.3 g of a toluene solution containing 38.8% of 3-(4-trifluoromethylphenylthio)butanal were added thereto. The mixture was stirred at 45°-50° C. for 10 hours and then at room temperature for 12 hours. After the mixture had been neutralized with a concentrated aqueous hydrochloric acid solution, the organic layer was separated, washed with a saturated aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. Removing the solvent from the layer under reduced pressure gave 34.24 g of crude 4-hydroxy-6-(4-trifluoromethylphenylthio)-2-heptanone (purity: 82.7%, yield: 99.0%).

reactant | methyl acetoacetate | C(CC(=O)C)(=O)OC | C5H8O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium acetate | 1.64 g | C(C)(=O)[O-].[Na+]
reactant | 3-(4-trifluoromethylphenylthio)butanal | FC(C1=CC=C(C=C1)SC(CC=O)C)(F)F | C11H11F3OS
solvent | water | 20 ml | O | H2O
catalyst | tetrabutylammonium bromide | 6.44 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 60.3 g | C1(=CC=CC=C1)C | C7H8
product | 4-hydroxy-6-(4-trifluoromethylphenylthio)-2-heptanone | 34.24 g, yield: 99.0% | OC(CC(C)=O)CC(C)SC1=CC=C(C=C1)C(F)(F)F | C14H17F3O2S
